US20010027196A1
2-Amino-4-benzylsulfanyl-6-phenyl-pyrimidine-5-carbonitrile
From 2-amino-4-phenyl-6-thioxo-1,6-dihydro-pyrimidine-5-carbonitrile, benzyl bromide and sodium ethylate in ethanol. EI-MS m/e (%):318 (M+, 50), 317 ([M—H]+, 100), 285 (20), 91 (84).

reactant | 2-amino-4-phenyl-6-thioxo-1,6-dihydro-pyrimidine-5-carbonitrile | NC=1NC(C(=C(N1)C1=CC=CC=C1)C#N)=S | C11H8N4S
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium ethylate | CC[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-4-benzylsulfanyl-6-phenyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)SCC1=CC=CC=C1)C#N)C1=CC=CC=C1 | C18H14N4S
